US08053467B2
120 g of water was added to 46.8 g of sucrose, then 0.8 g of hydrochloric acid was added, and the resultant substance was heated to be refluxed at 100° C. for 4 hours. After the substance was cooled down, extraction with 120 mL of ethyl acetate was repeated 3 times, and the obtained extract solution was washed with 50 mL of water. An appropriate amount of magnesium sulfate anhydride was added to perform dehydrating overnight. Then, magnesium sulfate was filtered out by a paper filter, and the filtrate was concentrated under reduced pressure using an evaporator to obtain 3.15 g of a flavor improving agent. From this flavor improving agent, 5-hydroxymethyl-2-furaldehyde bis(5-formylfurfuryl)acetal was obtained at a yield of 4.6% by weight by substantially the same refining means as that in Example 1.

reactant | sucrose | 46.8 g | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@]2([C@H]([C@@H]([C@H](O2)CO)O)O)CO)O)O)O)O | C12H22O11
reactant | hydrochloric acid | 0.8 g | Cl | ClH
solvent | water | 120 g | O | H2O
product | 5-hydroxymethyl-2-furaldehyde bis(5-formylfurfuryl)acetal | C(=O)C1=CC=C(COC(C=2OC(=CC2)CO)OCC2=CC=C(O2)C=O)O1 | C18H16O8
